US04357333
(b) N-(1-Ethyl-3-piperidyl)-4-(8-trifluoromethyl-4-quinolylamino)benzamide
11.6 Grams (0.03 mole) of 4-(8-trifluoromethyl-4-quinolylamino)benzoic acid hydrochloride monohydrate were refluxed in thionyl chloride containing a few drops of dimethyl formamide for one hour. The thionyl chloride was evaporated and 50 milliliters of benzene were added and evaporated. The resulting acid chloride hydrochloride was added in portions with stirring to a cooled mixture of 3.84 grams (0.03 mole) of 3-amino-1-ethylpiperidine in 80 milliliters of chloroform and 31.8 grams (0.3 mole) of sodium carbonate in 100 milliliters of water. The product began to precipitate almost at once, and the mixture was stirred vigorously for two hours, and allowed to stand overnight. Filtration gave a solid which was stirred in water, collected and dried. The resulting solid was dissolved in an ethanol:chloroform mixture and chromatographed on an alumine column made up in chloroform. Elution with chloroform gave 4.9 grams (37%) of title compound as a pale yellow solid, melting point 177°-178° C.

reactant | 4-(8-trifluoromethyl-4-quinolylamino)benzoic acid hydrochloride monohydrate | 0.03 mole | O.Cl.FC(C=1C=CC=C2C(=CC=NC12)NC1=CC=C(C(=O)O)C=C1)(F)F
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | 3-amino-1-ethylpiperidine | 0.03 mole, 3.84 grams | NC1CN(CCC1)CC | C7H16N2
reactant | sodium carbonate | 0.3 mole, 31.8 grams | C([O-])([O-])=O.[Na+].[Na+]
catalyst | thionyl chloride | a few drops | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 80 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 milliliters | O | H2O
product | N-(1-Ethyl-3-piperidyl)-4-(8-trifluoromethyl-4-quinolylamino)benzamide | 4.9 grams, 37% | C(C)N1CC(CCC1)NC(C1=CC=C(C=C1)NC1=CC=NC2=C(C=CC=C12)C(F)(F)F)=O | C24H25F3N4O
